US08835631B2
(2) Synthesis of 3,5-dimethyl-4-pyrimidin-2-ylpiperazine-1-carboxylic acid tert-butyl ester
3,5-Dimethylpiperazine-1-carboxylic acid tert-butyl ester (1.676 g) and 2-chloropyrimidine (716 mg) were combined, melted in an oil bath at 120° C., and stirred for 5 hr 30 min. Water (10 ml) was added and the mixture was stirred, extracted with ethyl acetate (30 ml), and washed with saturated brine. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated. The obtained residue was purified by column chromatography (Yamazen HI-FLASH™ COLUMN size L, elution solvent: hexane/ethyl acetate) to give the title compound (333 mg).

reactant | 3,5-Dimethylpiperazine-1-carboxylic acid tert-butyl ester | 1.676 g | C(C)(C)(C)OC(=O)N1CC(NC(C1)C)C | C11H22N2O2
reactant | 2-chloropyrimidine | 716 mg | ClC1=NC=CC=N1 | C4H3ClN2
solvent | Water | 10 ml | O | H2O
product | 3,5-dimethyl-4-pyrimidin-2-ylpiperazine-1-carboxylic acid tert-butyl ester | 333 mg | C(C)(C)(C)OC(=O)N1CC(N(C(C1)C)C1=NC=CC=N1)C | C15H24N4O2
